US07229836B2
1.4 Polymerisation and Removal of Propofol
The polymerisation carried in a manner similar to that Whitcombe et al. The Molar ratio used was of (2,6-diisopropyl)phenyl (4-vinylphenyl) carbonate to crosslinker (ethylenedimethacrylic acid) to 1,1′-azobis(cyclohexanecarbonitrile) (ABCHC) was 1:19:0.125 for bulk and 1:1:0.125 for membranes, 2 ml/g monomers as porogen (toluene). The polymerisation took 48 hors to complete at 60–80° C. for bulk polymer and 24 hours for the membranes.

reactant | (2,6-diisopropyl)phenyl (4-vinylphenyl) carbonate | C(OC1=C(C=CC=C1C(C)C)C(C)C)(OC1=CC=C(C=C1)C=C)=O | C21H24O3
reactant | ethylenedimethacrylic acid | C(CC=C(C(=O)O)C)C=C(C(=O)O)C | C10H14O4
reactant | 1,1′-azobis(cyclohexanecarbonitrile) | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Propofol | CC(C)C=1C=CC=C(C1O)C(C)C | C12H18O
